US09216998B2
A solution of 2-ethoxy-3-phenethyl-2-(trifluoromethyl)oxirane (340 mg, 1.3 mmol) and 3,4-dihydro-2H-benzo[b][1,4]oxazine (177 mg, 1.3 mmol) in hexafluoroisopropanol was stirred at room temperature overnight. The solvent was evaporated and the residue purified by reverse-phase HPLC (CH3CN/0.1% trifluoroacetic acid) to yield 5-phenethyl-6-(trifluoromethyl)-2,3,5,6-tetrahydro-[1,4]oxazino[2,3,4-hi]indol-6-ol as a solid (MS m/z 350 MH+).

reactant | 2-ethoxy-3-phenethyl-2-(trifluoromethyl)oxirane | 1.3 mmol, 340 mg | C(C)OC1(OC1CCC1=CC=CC=C1)C(F)(F)F | C13H15F3O2
reactant | 3,4-dihydro-2H-benzo[b][1,4]oxazine | 1.3 mmol, 177 mg | O1C2=C(NCC1)C=CC=C2 | C8H9NO
solvent | hexafluoroisopropanol | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
product | 5-phenethyl-6-(trifluoromethyl)-2,3,5,6-tetrahydro-[1,4]oxazino[2,3,4-hi]indol-6-ol | C(CC1=CC=CC=C1)C1N2C3=C(C=CC=C3C1(O)C(F)(F)F)OCC2 | C19H18F3NO2
